US07888352B2
5-(4-morpholino-6-((4-N-methylsulfonylpiperazin-1-yl)methyl)furo[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine 222
2-Chloro-6-((4-(methylsulfonyl)piperazin-1-yl)methyl)-4-morpholinofuro[3,2-d]pyrimidine, prepared in Example 153) was reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine via General Procedure E to give, after purification by reverse HPLC, 4 mg of 5-(6-((4-methylsulfonylpiperazin-1-yl)methyl)-4-morpholinofuro[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine. MS (Q1) 475 (M+)

reactant | 2-Chloro-6-((4-(methylsulfonyl)piperazin-1-yl)methyl)-4-morpholinofuro[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(O2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O4S
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
product | 5-(4-morpholino-6-((4-N-methylsulfonylpiperazin-1-yl)methyl)furo[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine | O1CCN(CC1)C=1C2=C(N=C(N1)C=1C=NC(=NC1)N)C=C(O2)CN2CCN(CC2)S(=O)(=O)C | C20H26N8O4S
